US08877774B2
Step 1. (4-(1,3-Dioxolan-2-yl)phenyl)methanol
A mixture of terephthaldehyde (5.4 g, 40 mmol), para-toluenesulfonic acid—monohydrate (0.4 g, 2 mmol), and ethylene glycol in toluene (80 mL) was heated at 110° C. for 4 hours. The reaction mixture was allowed to cool and was washed with saturated sodium hydrogen carbonate and dried with anhydrous magnesium sulphate. The filtrate was evaporated at reduced pressure to afford a oil. The oil was dissolved in ethanol (200 mL), and then the reaction mixture cooled to 0° C. Sodium borohydride (5.9 g, 160 mmol) was added portionwise, and the resultant reaction mixture allowed to warm to ambient temperature over 16 hours. The reaction mixture was quenched with saturated sodium hydrogen carbonate and subsequently extracted twice with ethyl acetate. The combined organic extracts were dried with anhydrous magnesium sulphate, and the solvent evaporated at reduced pressure. The crude material was purified by silica gel chromatography eluting with 100% iso-hexane to 50% ethyl acetate in iso-hexane to afford the title compound as a colourless oil (3.4 g, 48%).

reactant | terephthaldehyde | 40 mmol, 5.4 g | C1=CC(=CC=C1C=O)C=O | C8H6O2
reactant | para-toluenesulfonic acid—monohydrate | 2 mmol, 0.4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | Sodium borohydride | 160 mmol, 5.9 g | [BH4-].[Na+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | (4-(1,3-Dioxolan-2-yl)phenyl)methanol | 3.4 g, 48% | O1C(OCC1)C1=CC=C(C=C1)CO | C10H12O3
